US04097504
Step C: Preparation of 8-Acetyl-12-hydroxy-13,13-dimethylheptadecanoic Acid
This compound is prepared as described in Example 1, Step D, except that ethyl 8-acetyl-12-acetoxy-13,13-dimethylheptadecanoate is substituted for ethyl 8-acetyl-12-acetoxyheptadecanoate. The product is purified by chromatography on silica gel with 2% methanol in chloroform as eluant and is obtained as a colorless viscous oil.

reactant | ethyl 8-acetyl-12-acetoxy-13,13-dimethylheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(C(CCCC)(C)C)OC(C)=O | C25H46O5
reactant | ethyl 8-acetyl-12-acetoxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H42O5
product | 8-Acetyl-12-hydroxy-13,13-dimethylheptadecanoic Acid | C(C)(=O)C(CCCCCCC(=O)O)CCCC(C(CCCC)(C)C)O | C21H40O4
